US07638629B2
Step 2: (±)-2-[2,5-Bis(trifluoromethyl)phenyl]pentan-1-ol
DiBAL (7.62 ml, 1M in DCM, 7.62 mmol) was added to a solution of methyl 2-[2,5-bis(trifluoromethyl)phenyl]pentanoate (1 g, 3.05 mmol) in THF at −30° C. The mixture was stirred for 45 min. Sodium potassium tartrate (100 ml, satd. aq. solution) was added and the mixture was stirred at room temperature for 30 min then extracted into EtOAc. The combined organic phases were washed with brine, then dried (MgSO4) and concentrated in vacuo to give the product as a colourless oil. This was purified by chromatography on silica using hexane/EtOAc (9:1) as eluant to afford the product as an oil (710 mg). 1H NMR (500 MHz, CDCl3): δ 0.89 (3H, t, J 7.3), 1.10-1.20 (1H, m), 1.28-1.36 (1H, m), 1.60-1.68 (1H, m), 1.80-1.87 (1H, m), 3.33-3.39 (1H, m), 3.79 (2H, t, J 5.5), 7.59 (1H, d, J 8.3), 7.74 (1H, s), 7.79 (1H, d, J 8.2).

reactant | DiBAL | 7.62 mmol, 1M, 7.62 ml | CC(C)C[AlH]CC(C)C
reactant | methyl 2-[2,5-bis(trifluoromethyl)phenyl]pentanoate | 3.05 mmol, 1 g | FC(C1=C(C=C(C=C1)C(F)(F)F)C(C(=O)OC)CCC)(F)F | C14H14F6O2
reactant | Sodium potassium tartrate | 100 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | (±)-2-[2,5-Bis(trifluoromethyl)phenyl]pentan-1-ol | FC(C1=C(C=C(C=C1)C(F)(F)F)C(CO)CCC)(F)F | C13H14F6O
